US06326386B1
{3-Methyl-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-methanol
A suspension of 2-(3-formyl-5-methyl-phenoxy)-N-pyridin-4-yl-acetamide (0.30 g) in anhydrous tetahydrofuran (1 ml), stirring under a nitrogen atmosphere, was cooled to about 1° C. and treated with a 1M tetrahydrofuran solution of lithium aluminium hydnde (5.47 ml) over a period of 3 min. After 15 min the mixture was allowed to warm to room temperature. After stirring for a further 22 h the mixture was cooled to about 2° C. and the excess reagent was quenched with cautious dropwise addition of wet tetrahydrofuran and then water. The resulting aqueous mixture was partitioned between ethyl acetate and dilute sodium hydroxide solution saturated with sodium chloride and ammonium sulphate. The organic phase was dried with magnesium sulphate and concentrated under reduced pressure and the resulting gum was triturated with diethyl ether giving, after drying, the title compound as an off-white solid (0.13 g).

reactant | 2-(3-formyl-5-methyl-phenoxy)-N-pyridin-4-yl-acetamide | 0.30 g | C(=O)C=1C=C(OCC(=O)NC2=CC=NC=C2)C=C(C1)C | C15H14N2O3
reactant | lithium aluminium hydnde | 5.47 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | {3-Methyl-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-methanol | CC=1C=C(C=C(C1)OCCNC1=CC=NC=C1)CO | C15H18N2O2
